US05859014
substituting 5-prop-2-yl-2,4(1H,3H)pyrimidinedione and di-tert-butyl dicarbonate gave tert-butyl 5-prop-2-yl-2,4-dioxo-(1H,3H)-1-pyrimidinecarboxylate;

reactant | 5-prop-2-yl-2,4(1H,3H)pyrimidinedione | CC(C)C=1C(NC(NC1)=O)=O | C7H10N2O2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 5-prop-2-yl-2,4-dioxo-(1H,3H)-1-pyrimidinecarboxylate | CC(C)C=1C(NC(N(C1)C(=O)OC(C)(C)C)=O)=O | C12H18N2O4
